US07652041B2
Preparation of 4-[4-(3-anilino-3-oxopropyl)phenoxy]-N-methylpyridine-2-carboxamide (A-12)
A mixture of 3-(4-hydroxyphenyl)propanoic acid (10.7 g, 64.5 mmol), 4-chloro-N-methylpicolinamide (10.0 g, 58.6 mmol) and cesium carbonate (57.3 g, 175.8 mmol) was stirred in DMF and heated at 100° C. overnight. After cooling to rt, the mixture was filtered and washed with EtOAc to remove cesium carbonate. The remaining solid was dissolved in a minimal amount of water and the pH of the solution was adjusted to 4 by the dropwise addition of a sat. oxalic acid solution. The solution was extracted with DCM, the organic solutions washed with water and brine, dried over MgSO4, filtered, and concentrated. The resulting solid was recrystallized from EtOAc to give the desired product as a pale cream solid (5.07 g, 37%). 1H NMR (400 MHz, d6-DMSO) δ: 12.13 (s, 1H), 8.70-8.78 (m, 1H), 8.49 (d, J=5.6 Hz, 1H), 7.34-7.39 (m, 3H), 7.11-7.14 (m, 3H), 2.87 (br t, J=7.6 Hz, 2H), 2.77 (d, J=4.8 Hz, 3H), and 2.57 (br t, J=7.6 Hz, 2H).

reactant | 3-(4-hydroxyphenyl)propanoic acid | 64.5 mmol, 10.7 g | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | 4-chloro-N-methylpicolinamide | 58.6 mmol, 10.0 g | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
reactant | cesium carbonate | 175.8 mmol, 57.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | CN(C)C=O | C3H7NO
product | 4-[4-(3-anilino-3-oxopropyl)phenoxy]-N-methylpyridine-2-carboxamide | 5.07 g, 37% | N(C1=CC=CC=C1)C(CCC1=CC=C(OC2=CC(=NC=C2)C(=O)NC)C=C1)=O | C22H21N3O3
